US06906053B2
4-[(2-methyl-4-quinolinyl)methoxy]aniline bis-HCl salt
To a solution of 4-nitrophenol (7.2 g, 52.0 mmol) in 400 mL THF was added 4-(chloromethyl)-2-methylquinoline (10.0 g, 52.0 mmol), cesium carbonate (25.4 g, 78 mmol), and sodium iodide (451 mg, 3 mmol). The reaction was heated to reflux for 24 hr, after which the reaction was extracted from sat KH2PO4 with EtOAc×3. The combined organic layers were dried with MgSO4, filtered, and concentrated. This residue was taken up in 200 mL MeOH and refluxed with SnCl2 (156 mmol) for 18 hr after which, the solution was cooled and the reaction was extracted from disodium tartrate with EtOAc×4, the combined organic layers were dried with MgSO4, filtered, and concentrated. The residue was treated with 2 M HCl in dioxane, rotovapped, and recrystallized from EtOH/water to give 12.4 g (71%). MS found: (M+H)=265.

reactant | 4-nitrophenol | 52.0 mmol, 7.2 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 4-(chloromethyl)-2-methylquinoline | 52.0 mmol, 10.0 g | ClCC1=CC(=NC2=CC=CC=C12)C | C11H10ClN
reactant | cesium carbonate | 78 mmol, 25.4 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 3 mmol, 451 mg | [I-].[Na+]
reactant | SnCl2 | 156 mmol | Cl[Sn]Cl
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 4-[(2-methyl-4-quinolinyl)methoxy]aniline bis-HCl salt | Cl.Cl.CC1=NC2=CC=CC=C2C(=C1)COC1=CC=C(N)C=C1 | InChI=1S/C17H16N2O.2ClH/c1-12-10-13(16-4-2-3-5-17(16)19-12)11-20-15-8-6-14(18)7-9-15;;/h2-10H,11,18H2,1H3;2*1H
